US06313137B1
Synthesis of 2-bromo-6-methylbenzylbromide
A mixture of 3-bromo-o-xylene (15 g, 81 mmol), N-bromo succinimid (15.1 g, 85.1 mmol), dibenzoylperoxid (0.65 g) and tetrachloromethane (150 ml) was refluxed for 5 hours. After filtration the filtrate was washed with sodium hydrogensulfite and water. The organic layer was dried over sodium sulfate and evaporated in vacuo. Chromatography (SiO2) (petroleum ether:ethyl acetate, 100:4) gave a 16.8 g fraction of a mixture containing 45% of the title compound. This mixture was used without further purification.

reactant | 3-bromo-o-xylene | 81 mmol, 15 g | BrC1=C(C(=CC=C1)C)C | C8H9Br
reactant | N-bromo succinimid | 85.1 mmol, 15.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoylperoxid | 0.65 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | tetrachloromethane | 150 ml | ClC(Cl)(Cl)Cl | CCl4
product | 2-bromo-6-methylbenzylbromide | 45% | BrC1=C(CBr)C(=CC=C1)C | C8H8Br2
